### PR TITLE
chore: golf a bit

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: SphereEversion/ToMathlib/Analysis/Convex/Basic.lean [hunk 1]
```diff
@@ -149,8 +142,8 @@ theorem ReallyConvex.sum_mem [Nontrivial 𝕜] (hs : ReallyConvex 𝕜 s) {ι :
 theorem ReallyConvex.finsum_mem [Nontrivial 𝕜] (hs : ReallyConvex 𝕜 s) {ι : Type*} {w : ι → 𝕜}
     {z : ι → E} (h₀ : ∀ i, 0 ≤ w i) (h₁ : ∑ᶠ i, w i = 1) (hz : ∀ i ∈ support w, z i ∈ s) :
     ∑ᶠ i, w i • z i ∈ s := by
-  have hw : (support w).Finite := support_finite_of_finsum_eq_one h₁
-  rw [finsum_eq_sum_of_support_subset_of_finite _ _ hw]
+  -- have hw : (support w).Finite := support_finite_of_finsum_eq_one h₁
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/Convex/Basic.lean:145]:
```suggestion

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean [hunk 2]
```diff
@@ -111,11 +111,8 @@ variable {x₀ x : E}
 theorem mem_orthogonal_span_singleton_iff {x₀ x : E} : x ∈ {.x₀}ᗮ ↔ ⟪x₀, x⟫ = 0 := by
   simp only [mem_orthogonal, forall_mem_span_singleton, inner_smul_left, RCLike.conj_to_real,
     mul_eq_zero]
-  constructor
-  · intro h
-    simpa using h 1
-  · intro h t
-    exact Or.inr h
+  refine ⟨fun h ↦ ?_, fun h t ↦ Or.inr h⟩
+  simpa using h 1
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean:115]: You could inline this into the previous line, if you want.

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean [hunk 3]
```diff
@@ -235,10 +226,7 @@ theorem continuousAt_orthogonalProjection_orthogonal {x₀ : E} (hx₀ : x₀ 
   have hNx₀ : 0 < ‖N x₀‖ := by
     -- and now let's suffer
     rw [norm_smul, real_inner_self_eq_norm_sq, norm_inv]
-    apply mul_pos
-    apply inv_pos_of_pos
-    apply norm_pos_iff.mpr hNx₀2.ne'
-    exact hNx₀
+    exact mul_pos (inv_pos_of_pos (norm_pos_iff.mpr hNx₀2.ne')) hNx₀
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean:229]: `positivity` can't do this, right?

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean [hunk 4]
```diff
@@ -21,10 +21,7 @@ theorem orthogonal_span_toDual_symm (π : E →L[ℝ] ℝ) :
   suffices (∀ a : ℝ, ⟪a • (toDual ℝ E).symm π, x⟫ = 0) ↔ π x = 0 by
     simp only [orthogonal, mem_mk, Set.mem_setOf_eq, LinearMap.mem_ker, ← toDual_symm_apply]
     change (∀ (u : E), u ∈ span ℝ {(LinearIsometryEquiv.symm (toDual ℝ E)) π} → inner u x = 0) ↔ _
-    simpa only [mem_span_singleton, forall_exists_index, forall_apply_eq_imp_iff, toDual_symm_apply]
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean:24]: For this un-squeezing: can you at least roughly eyeball that performance didn't change?

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean [hunk 5]
```diff
@@ -56,15 +56,11 @@ theorem inner_crossProduct_apply (u v w : E) : ⟪u×₃v, w⟫ = ω.volumeForm
              LinearMap.coe_comp, Function.comp_apply, LinearMap.llcomp_apply, LinearEquiv.coe_coe,
              LinearEquiv.trans_apply, LinearIsometryEquiv.coe_toLinearEquiv, LinearMap.coe_comp]
   rw [InnerProductSpace.toDual_symm_apply]
-  simp only [LinearMap.coe_toContinuousLinearMap', Function.comp_apply, LinearMap.llcomp_apply,
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean:59]: Similarly for the three un-squeezing in this file?

**Review by grunweg — COMMENTED** [review]
Thanks! I can suggest two small tweaks - and can you double-check that your un-squeezing is fine? Manually eyeballing "it's not really slow now" is good enough!

File: SphereEversion/ToMathlib/Analysis/Convex/Basic.lean (hunk 1 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/Convex/Basic.lean:145]: Done, thanks.

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean (hunk 4 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean:24]: With `simp only [...]

````console
1.74s user 0.98s system 130% cpu 2.086 total
```

With `simpa` 

```console
1.77s user 1.00s system 126% cpu 2.193 total
```

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean (hunk 2 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean:115]: Done.

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean (hunk 3 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean:229]: No, it can't.

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean (hunk 5 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean:59]: With `simp only`: 

```console
4.84s user 1.01s system 107% cpu 5.443 total
```

With `simp`:

```
5.13s user 1.11s system 115% cpu 5.418 total
```

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean (hunk 4 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean:24]: What do you think? Good enough?

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean (hunk 5 above)
Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean:59]: What do you think? Good enough?

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean (hunk 4 above)
Comment (grunweg) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Dual.lean:24]: Good enough!

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean [hunk 6]
```diff
@@ -111,8 +111,7 @@ variable {x₀ x : E}
 theorem mem_orthogonal_span_singleton_iff {x₀ x : E} : x ∈ {.x₀}ᗮ ↔ ⟪x₀, x⟫ = 0 := by
   simp only [mem_orthogonal, forall_mem_span_singleton, inner_smul_left, RCLike.conj_to_real,
     mul_eq_zero]
-  refine ⟨fun h ↦ ?_, fun h t ↦ Or.inr h⟩
-  simpa using h 1
+  refine ⟨fun h ↦ ?_, fun h t ↦ Or.inr h⟩; simpa using h 1
```
Comment (grunweg) [inline SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean:114]: Oh, I meant:
```suggestion
  refine ⟨fun h ↦ by simpa using h 1, fun h t ↦ Or.inr h⟩

Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/Projection.lean]: Oh sure! Sorry, a bit tired.

File: SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean (hunk 5 above)
Comment (grunweg) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean:59]: That's for the overall file, right? Yup, I'd call that fine. (For a single simp, 300ms or perhaps 500ms is where I start to wonder if squeezing makes sense. For now, I think that's fine.)

Comment (pitmonticone) [reply SphereEversion/ToMathlib/Analysis/InnerProductSpace/CrossProduct.lean:59]: Yep, whole file.
